US06307047B1
2-(2,4-Difluorobenzyl)-4-(4-fluorophenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
2-Benzyl-4-(4-fluorophenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone, prepared according to the method of Example 68, was N-debenzylated according to the method of Example 11. The intermediate was N-alkylated according to the method of Example 20, substituting 2,4-difluorobenzylbromide in place of 4-fluorobenzyl bromide to provide the title compound (yield: 65 mg, 24%). mp 236-238° C. 1H NMR (300 MHz, CDCl3) δ 4.78 (s, 2H), 5.43 (s, 2H), 6.88 (m, 2H), 6.97 (t, J=9 Hz, 2H), 7.18 (d, J=9 Hz, 6 Hz, 2H), 7.38 (d, J=9 Hz, 2H), 7.55 (m, 1H), 7.85 (s, 1H), 7.86 (d, J=9 Hz, 2H). MS (DCI/NH3) m/z 472 (M+H)+. Anal. calc. for C23H16F3N3O3S: C, 58.59; H, 3.42; N, 8.91. Found: C, 58.44; H, 3.47; N, 8.72.

reactant | 2-Benzyl-4-(4-fluorophenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)N | C23H18FN3O3S
reactant | 2,4-difluorobenzylbromide | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
product | 2-(2,4-Difluorobenzyl)-4-(4-fluorophenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | yield: 65 mg, 24% | FC1=C(CN2N=CC(=C(C2=O)C2=CC=C(C=C2)F)C2=CC=C(C=C2)S(=O)(=O)N)C=CC(=C1)F | C23H16F3N3O3S
